US07049313B2
6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-11H-dibenzo[b,f]thiepin-10-one
Trifluoro-methanesulfonic acid 11-oxo-10,11-dihydro-dibenzo[b,f]thiepin-4-yl ester (0.374 g, 1 mmol), bis(pinacolato)diboron (305 mg, 1.2 mmol) and potassium acetate (294 mg, 3 mmol) were dissolved in 1,4-dioxane (5 mL) and the mixture was degassed for 5 min. Pd(dppf)Cl2 (40 mg, 0.05 mmol) and dppf (28 mg, 0.05 mmol) were added to the vessel, and the reagents heated to 100° C. under nitrogen with stirring for 12 hours. The reaction mixture was purified by flash chromatography (dichloromethane/hexane, 1:4) and the black residue was used without further purification (0.35 g).

reactant | Trifluoro-methanesulfonic acid 11-oxo-10,11-dihydro-dibenzo[b,f]thiepin-4-yl ester | 1 mmol, 0.374 g | O=C1C2=C(SC3=C(C1)C=CC=C3)C(=CC=C2)OS(=O)(=O)C(F)(F)F | C15H9F3O4S2
reactant | bis(pinacolato)diboron | 1.2 mmol, 305 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3 mmol, 294 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.05 mmol, 40 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.05 mmol, 28 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-11H-dibenzo[b,f]thiepin-10-one | CC1(OB(OC1(C)C)C1=CC=CC=2C(CC3=C(SC21)C=CC=C3)=O)C | C20H21BO3S
